US07598391B2
1-(1-Acetyl-piperidin-4-yl)-1-cyclohexyl-3-[5-(2-piperidin-1-yl-ethylsulfanyl)-thiazol-2-yl]-urea
Prepared as described in general procedures (H) and (I) using 1-(1-acetyl-piperidin-4-yl)-1-cyclohexyl-3-(5-thiocyanato-thiazol-2-yl)-urea, dithioerythritol and N-(2-chloroethyl)piperidine

reactant | 1-(1-acetyl-piperidin-4-yl)-1-cyclohexyl-3-(5-thiocyanato-thiazol-2-yl)-urea | C(C)(=O)N1CCC(CC1)N(C(=O)NC=1SC(=CN1)SC#N)C1CCCCC1 | C18H25N5O2S2
reactant | dithioerythritol | SC[C@H](O)[C@H](O)CS | C4H10O2S2
reactant | N-(2-chloroethyl)piperidine | ClCCN1CCCCC1 | C7H14ClN
product | 1-(1-Acetyl-piperidin-4-yl)-1-cyclohexyl-3-[5-(2-piperidin-1-yl-ethylsulfanyl)-thiazol-2-yl]-urea | C(C)(=O)N1CCC(CC1)N(C(=O)NC=1SC(=CN1)SCCN1CCCCC1)C1CCCCC1 | C24H39N5O2S2
